Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
mushrooms
 
Attending: ___
 
Chief Complaint:
hyperparathyroidism and recurrent nephrolithiasis.
 
Major Surgical or Invasive Procedure:
Left PCNL, placement of bilateral ureteral stents

 
History of Present Illness:
 ___ male with history of hyperparathyroidism and recurrent 
nephrolithiasis. He is  
 followed by Dr. ___ and Dr. ___ 
-  
 GBU) he initially presented to Dr. ___ in ___ with a  
 staghorn calculus and underwent an open pyelolithotomy; since  
 then he has had multiple urologic interventions for bilateral  
 renal calculi as summarized below.  
 SWL: ___ (most recent Right SWL for 1cm 
right  
 renal stone)  
 URS/LL: ___  

 
Past Medical History:
Hyperparathyroidism  
 Colon cancer status post resection followed by adjuvant 
radiation  
 BPH  
 Hypertension  
 PAST SURGICAL HISTORY:  
 Colon Resection ___  
 SWL: ___ (most recent Right SWL for 1cm 
right  
 renal stone)  
 URS/LL: ___  
 Left flank hernia repair: ___  
 Pyelolithotomy ___  

 
Social History:
___
Family History:
[-] Nephrolithiasis  
 [-] Malignant Hyperthermia  
 [-] Renal Cell CA  
 [-] Testisa CA  
 [-] Prostate CA  
 [-] Bladder CA  

 
Physical Exam:
WdWn male, NAD, AVSS
Interactive, cooperative
Abdomen soft, Nt/Nd
Flank pain c/w recent manipulation, surgery
PCN site c/d/i
Lower extremities w/out edema or pitting and no report of calf 
pain

 
Pertinent Results:
___ 05:45AM BLOOD WBC-8.1 RBC-3.79* Hgb-11.4* Hct-34.2* 
MCV-90 MCH-30.1 MCHC-33.3 RDW-13.3 RDWSD-43.7 Plt ___
___ 11:19AM BLOOD WBC-14.5* RBC-3.98* Hgb-12.1* Hct-36.1* 
MCV-91 MCH-30.4 MCHC-33.5 RDW-13.4 RDWSD-44.6 Plt ___

___ 05:45AM BLOOD Glucose-96 UreaN-11 Creat-0.9 Na-141 
K-4.2 Cl-103 HCO3-27 AnGap-11
___ 11:19AM BLOOD Glucose-172* UreaN-17 Creat-1.0 Na-143 
K-4.6 Cl-106 HCO3-25 AnGap-12
___ 05:45AM BLOOD Calcium-8.9 Phos-1.9* Mg-1.8

___ 9:55 am URINE     Site: CYSTOSCOPY
      LEFT RENAL PELVIC URINE FOR CULTURE. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ for 
nephrolithiasis management with a known left renal stones, 
multiple. He underwent left percutaneous nephrolithotomy,
establishment of percutaneous access tract, antegrade 
nephrostogram, left nephrostomy tube placement, and bilateral 
ureteral stent placement. He tolerated the procedure well and 
recovered in the PACU before transfer to the general surgical 
floor. See the dictated operative note for full details. 
Overnight, the patient was hydrated with intravenous fluids and 
received appropriate perioperative prophylactic antibiotics. On 
POD1, catheter was removed and CT scan for residual stone burden 
was obtained.  At discharge on POD1, patient’s pain was 
controlled with oral pain medications, tolerating regular diet, 
ambulating without assistance, and voiding without difficulty.  
Mr. ___ was explicitly advised to follow up as directed as 
the indwelling ureteral stent must be removed and or exchanged.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. benazepril 40 mg oral DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Vitamin D Dose is Unknown  PO Frequency is Unknown 
4. lactobacillus combination ___ unknown oral asdir 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*7 Tablet Refills:*0 
4.  Senna 17.2 mg PO QHS 
RX *sennosides [senna] 8.6 mg 1 tab by mouth at bedtime Disp 
#*20 Tablet Refills:*0 
5.  Vitamin D 1000 UNIT PO ASDIR  
6.  amLODIPine 10 mg PO DAILY  
7.  benazepril 40 mg oral DAILY  
8.  lactobacillus combination ___ unknown oral ASDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left renal calculus s/p Left PCNL

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
PCNL & NEPHROLITHIASIS:

-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.  You may aslo experience some 
pain associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may be fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your nephrostomy 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

 
Followup Instructions:
___